US04222932
Preparation and Formulation of Polyisophthalate of 2,2-Bis(4-Hydroxyphenyl)Propane
An equimolar mixture of 2,2-bis(4-acetoxyphenyl)propane (Bisphenol A diacetate) and isophthalic acid is heated gradualy to 290° C. in a stirred vessel under gradually increasing vacuum to remove the acetic acid which is liberated. When the melt viscosity of the condensate reaches a level such that stirring becomes difficult the melt is drained from the reaction vessel and crystallized. The crystallized polymer is subjected to solid state polymerization under vacuum at 280° C. until the inherent viscosity reaches 0.65 dl/g (in 40/60 by weight tetrachloroethane/phenol solution at 25° C.). The polymer is then extruded at 350° C. and pelletized. The polymer has an inherent viscosity of 0.62 and a carboxylic acid content of 40 microequivalents per gram (μeq./g), determined by potentiometric titration of a solution of the polymer in a 2,6-dimethylphenol/chloroform/ethanol mixture with an ethanolic solution of potassium hydroxide.

reactant | 2,2-bis(4-acetoxyphenyl)propane | C(C)(=O)OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OC(C)=O | C19H20O4
reactant | isophthalic acid | C(C1=CC(C(=O)O)=CC=C1)(=O)O | C8H6O4
reactant | tetrachloroethane phenol | ClCC(Cl)(Cl)Cl.C1(=CC=CC=C1)O
reactant | 2,6-dimethylphenol chloroform ethanol | CC1=C(C(=CC=C1)C)O.C(Cl)(Cl)Cl.C(C)O
reactant | potassium hydroxide | [OH-].[K+]
product | 2,2-Bis(4-Hydroxyphenyl)Propane | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
